US05100762
Methacrylic acid (0.1 mol) and tri-n-butylhydroxystannane (0.1 mol) were dissolved in xylene and subjected to reaction. The water that formed as the reaction proceeded was removed together with the solvent by distillation. The by-product of the reaction was distilled off under vacuum and the residue was dried under vacuum to obtain tri-n-butylstannyl methacrylate (m.p. 46° C.; yield, 64%). This tri-n-butylstannyl methacrylate was put into a round-bottom flask and xylene was added to attain a concentration of ca. 50%. As a polymerization initiator, benzoyl peroxide (1 mol % of)the tri-n-butylstannyl methacrylate) dissolved in xylene was charged into a dropping funnel. After equipping the flask with this funnel, the benzoyl peroxide solution was dripped in an amount of about 10% of the total quantity. Thereafter, the flask was heated to the reflux temperature and the remaining initiator was slowly added dropwise until the reaction was completed in 8 hours. After the reaction, the content of the flask was added to n-hexane and subjected to re-precipitation. The resulting precipitate was recovered and dried to obtain poly(tri-n-butylstannyl methacrylate). Yield, 80%, Mn, 30,000; Mw/Mn=1.8, IR (ν -1), 1700, 1160, 700; atomic absorption spectrum (Sn content), 31.44 (found) and 31.64 (calculated).

reactant | Methacrylic acid | 0.1 mol | C(C(=C)C)(=O)O | C4H6O2
reactant | tri-n-butylhydroxystannane | 0.1 mol | C(CCC)[Sn](O)(CCCC)CCCC
reactant | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | tri-n-butylstannyl methacrylate | 64% | C(C(=C)C)(=O)O[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H6O2.3C4H9.Sn/c1-3(2)4(5)6;3*1-3-4-2;/h1H2,2H3,(H,5,6);3*1,3-4H2,2H3;/q;;;;+1/p-1
